US09126931B2
8-Methoxy-6,6-dimethyl-6H-benzo[b]naphth[2,3-d]thiophen-11-one
To 2-(1-benzo[b]thiophen-2-yl-1-methylethyl)-4-methoxy-benzoic acid (Compound Z4, 68 mg, 0.22 mmol), polyphosphoric acid (3.5 g) was added, and the mixture was stirred for 1 hr at 100° C. under heating. The mixture was added with water, extracted with ethyl acetate and washed with water. The organic layer was dried over magnesium sulfate. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (41 mg, 63%).

reactant | 2-(1-benzo[b]thiophen-2-yl-1-methylethyl)-4-methoxy-benzoic acid | 0.22 mmol, 68 mg | S1C2=C(C=C1C(C)(C)C1=C(C(=O)O)C=CC(=C1)OC)C=CC=C2 | C19H18O3S
solvent | water | O | H2O
product | 8-Methoxy-6,6-dimethyl-6H-benzo[b]naphth[2,3-d]thiophen-11-one | 41 mg, 63% | COC=1C=C2C(C3=C(C4=C(S3)C=CC=C4)C(C2=CC1)=O)(C)C | C19H16O2S
